US09145415B2
To tert-butyl (2-chloro-5-(5-hydroxy-1-pentyn-1-yl)pyridin-4-yl)(propyl)carbamate (S10, 88 mg), 4-aminobenzonitrile (59 mg), tris(dibenzylideneacetone)dipalladium(0) (22 mg), 4,5′-bis(diphenylphosphino)-9,9′-dimethylxanthene (29 mg) and cesium carbonate (203 mg), 1,4-dioxane (2.5 mL) was added at room temperature, and the mixture was stirred at 100° C. for 10 hours. The reaction mixture was cooled to room temperature, and then ethyl acetate and water were added to the reaction mixture. The insoluble matter was removed by filtration through Cerite. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel chromatography (eluent, 100 to 30% hexane in ethyl acetate) to obtain tert-butyl (2-((4-cyanophenyl)amino)-5-(5-hydroxy-1-pentyn-1-yl)pyridin-4-yl)(propyl)carbamate (S11, 17 mg).

reactant | tert-butyl (2-chloro-5-(5-hydroxy-1-pentyn-1-yl)pyridin-4-yl)(propyl)carbamate | 88 mg | ClC1=NC=C(C(=C1)N(C(OC(C)(C)C)=O)CCC)C#CCCCO | C18H25ClN2O3
reactant | 4-aminobenzonitrile | 59 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | cesium carbonate | 203 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 22 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (2-((4-cyanophenyl)amino)-5-(5-hydroxy-1-pentyn-1-yl)pyridin-4-yl)(propyl)carbamate | 17 mg | C(#N)C1=CC=C(C=C1)NC1=NC=C(C(=C1)N(C(OC(C)(C)C)=O)CCC)C#CCCCO | C25H30N4O3
